US06040468
Preparation of 16α,21-Dimethyl-11β,20-bis(trimethylsiloxy)-pregna-1,4, 17(20)-trien-3-one
To a stirred, cooled (-45° C. bath, MeCN--CO2) solution of 21-methyl-11β-(trimethylsiloxy)-pregna-1,4,16-trien-3,20-dione (0.395 g, 0.96 mmol) in 9.0 mL of anhydrous THF under Ar was added via syringe chlorotrimethylsilane (0.50 mL, 4.0 mmol), followed by dropwise addition over 3 min of 5.0 mL (1.0 mmol) of the above cuprate solution. After 10 min, the mixture was quenched at -45° C. (bath) by rapid addition via syringe of a solution of 0.5 mL (12 mmol) of MeOH and 1.5 mL (11 mmol) of Et3N and warming to 0° C. Water and EtOAc were added and the solution was stirred vigorously. The pH was adjusted from 9 to 7 with sat. KH2PO4 and stirring was continued for 0.5 h. The layers were separated and the organic solution was washed with water and brine, dried (MgSO4), filtered and concentrated. The residue was purified by chromatography to give 0.41 g (85.5%) of the desired product, C29H48O3Si2, as a white solid.

reactant | 21-methyl-11β-(trimethylsiloxy)-pregna-1,4,16-trien-3,20-dione | 0.96 mmol, 0.395 g | CCC(C1=CC[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O[Si](C)(C)C)=O)=O | C25H36O3Si
reactant | chlorotrimethylsilane | 4.0 mmol, 0.50 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | MeOH | 12 mmol, 0.5 mL | CO | CH4O
reactant | Et3N | 11 mmol, 1.5 mL | CCN(CC)CC | C6H15N
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
solvent | THF | 9.0 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | 16α,21-Dimethyl-11β,20-bis(trimethylsiloxy)-pregna-1,4, 17(20)-trien-3-one | 0.41 g, 85.5% | C[C@H]1C(=C(CC)O[Si](C)(C)C)[C@]2(C[C@@H]([C@@H]3[C@]4(C=CC(C=C4CC[C@H]3[C@@H]2C1)=O)C)O[Si](C)(C)C)C | C29H48O3Si2
